US09422331B2
To a solution of (2S,3S)-2-tert-butoxycarbonylamino-3-(2-nitro-phenylamino)-butyric acid methyl ester (5.71 g, 16.2 mmol) in dioxane water (1:1, 100 ml) was added an aqueous solution of 2.5 M lithium hydroxide (31 ml) and the reaction was stirred at ambient temperature for 2 h. The reaction was made acidic with 10% aqueous citric acid, diluted with water (60 ml) and extracted with ethyl acetate (2×100 mL). The organic layers were combined, washed with water (1×50 mL), brine, dried over sodium sulfate, filtered and concentrated in vacuo to give (2S,3S)-2-tert-butoxycarbonylamino-3-(2-nitro-phenylamino)-butyric acid which was carried to the subsequent step without purification (5.48 g, 99%).

reactant | (2S,3S)-2-tert-butoxycarbonylamino-3-(2-nitro-phenylamino)-butyric acid methyl ester | 16.2 mmol, 5.71 g | COC([C@H]([C@H](C)NC1=C(C=CC=C1)[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C16H23N3O6
reactant | lithium hydroxide | 2.5 M, 31 ml | [OH-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane water | 100 ml | O.O1CCOCC1
solvent | water | 60 ml | O | H2O
product | (2S,3S)-2-tert-butoxycarbonylamino-3-(2-nitro-phenylamino)-butyric acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@H](C)NC1=C(C=CC=C1)[N+](=O)[O-] | C15H21N3O6
